US06242443B1
b) 6,7-Dichloro-3-hexylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate was treated with hexylamine according to the general procedure Method B to give the title compound; m.p. 282-286° C.; IR (KBr): 3332, 3173, 3074, 2956, 2930, 2854, 1637, 1580, 1562, 1464, 1241, 1168, 1143, 1132 cm−1.

reactant | 6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate | O.ClC=1C(=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)C1)Cl
reactant | hexylamine | C(CCCCC)N | C6H15N
product | 6,7-Dichloro-3-hexylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(NC(=NS2(=O)=O)NCCCCCC)C1)Cl | C13H17Cl2N3O2S
